US09108969B2
Step E: Preparation of 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid
tert-Butyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate (452 mg, 0.981 mmol) was added to a solution of 2-amino-3-mercaptopropanoic acid (214 mg, 1.767 mmol) in TFA (5 mL) and was stirred at room temperature for 15 min. The reaction mixture was poured into ice water. The white precipitate was collected by filtration to provide the title compound (342 mg). LCMS m/z=405.5 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.40 (d, J=6.1 Hz, 6H), 2.26-2.36 (m, 1H), 2.66 (dd, J=16.4, 8.5 Hz, 1H), 2.85-2.97 (m, 2H), 3.72-3.80 (m, 1H), 3.98-4.06 (m, 1H), 4.10-4.17 (m, 1H), 4.65 (septet, J=6.1 Hz, 1H), 5.00 (s, 2H), 6.12 (s, 1H), 6.84 (dd, J=8.8, 2.4 Hz, 1H), 6.96 (d, J=8.7 Hz, 1H), 7.06 (d, J=2.4 Hz, 1H), 7.14 (d, J=8.7 Hz, 1H), 7.58 (dd, J=8.8, 2.4 Hz, 1H), 7.64 (d, J=2.1 Hz, 1H).

reactant | tert-Butyl 2-(7-(3-cyano-4-isopropoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetate | 0.981 mmol, 452 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)OC(C)(C)C)C=CC1OC(C)C | C28H32N2O4
reactant | 2-amino-3-mercaptopropanoic acid | 1.767 mmol, 214 mg | NC(C(=O)O)CS | C3H7NO2S
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-(7-(3-Cyano-4-isopropoxybenzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | 342 mg | C(#N)C=1C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=CC1OC(C)C | C24H24N2O4
